US09079866B2
1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-methylmethanesulfonamide formic acid salt
The title compound was prepared using analogous conditions to those described in Example 1 utilizing 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine and 1-(2-bromophenyl)-N-methylmethanesulfonamide. MS (ESI): mass calcd. for C18H17FN4O2S, 372.11; m/z found, 373.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.34 (s, 1H), 8.25 (s, 1H), 7.99 (m, 1H), 7.68-7.60 (m, 1H), 7.50-7.40 (m, 2H), 7.39-7.31 (m, 3H), 4.36 (s, 2H), 2.49 (s, 3H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-(2-bromophenyl)-N-methylmethanesulfonamide | BrC1=C(C=CC=C1)CS(=O)(=O)NC | C8H10BrNO2S
product | 1-[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]-N-methylmethanesulfonamide formic acid salt | C(=O)O.NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)CS(=O)(=O)NC)F | InChI=1S/C18H17FN4O2S.CH2O2/c1-21-26(24,25)11-13-4-2-3-5-14(13)12-6-7-15(16(19)8-12)17-9-23-18(20)10-22-17;2-1-3/h2-10,21H,11H2,1H3,(H2,20,23);1H,(H,2,3)
